US07642249B2
A solution of (6-chloro-2-methoxy-pyrimidin-4-yl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine (0.51 mmol) and 3-(1-carboxy-1-methyl-ethyl)-phenyl boronic acid (0.61 mmol) in acetonitrile (2.5 mL) and aqueous sodium carbonate solution (0.4 M, 2.5 mL) is degassed with nitrogen for 5 minutes before addition of tetrakistriphenylphosphine palladium (0) (29.5 mg, 5 mol %). The reaction vessel is sealed and heated under microwave to 130° C. for 30 minutes. To the reaction mixture is added 2 mL of water, the pH is adjusted to about 7 using 2 N aqueous HCl and this mixture is extracted three times with ethyl acetate (30 mL). The combined extracts are washed with brine, dried over sodium sulfate and concentrated. The residue is subjected to silica gel chromatography to afford 2-(3-{6-[2-(2,4-dichloro-phenyl)-ethylamino]-2-methoxy-pyrimidin-4-yl}-phenyl)-2-methyl-propionic acid as a solid (205 mg, 75%). LC/MS: RT=2.39 minutes, MS: 460 (M+H); 1H NMR [300 MHz, (CD3)2SO]: δ 12.38 (1H, s), 7.36-8.00 (7H, m), 6.58 (1H, s), 3.84 (3H, s), 3.58 (2H, m), 2.98 (2H, m), 1.54 (6H, s).

reactant | (6-chloro-2-methoxy-pyrimidin-4-yl)-[2-(2,4-dichloro-phenyl)-ethyl]-amine | 0.51 mmol | ClC1=CC(=NC(=N1)OC)NCCC1=C(C=C(C=C1)Cl)Cl | C13H12Cl3N3O
reactant | 3-(1-carboxy-1-methyl-ethyl)-phenyl boronic acid | 0.61 mmol | C(=O)(O)C(C)(C)C=1C=C(C=CC1)B(O)O | C10H13BO4
reactant | water | 2 mL | O | H2O
reactant | HCl | 2 N | Cl | ClH
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
solvent | sodium carbonate | 0.4 M, 2.5 mL | C([O-])([O-])=O.[Na+].[Na+]
product | 2-(3-{6-[2-(2,4-dichloro-phenyl)-ethylamino]-2-methoxy-pyrimidin-4-yl}-phenyl)-2-methyl-propionic acid | 205 mg, 75% | ClC1=C(C=CC(=C1)Cl)CCNC1=CC(=NC(=N1)OC)C=1C=C(C=CC1)C(C(=O)O)(C)C | C23H23Cl2N3O3
